US04963566
8-t-Butyldimethylsilyloxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline (1.81 g) was dissolved in tetrahydrofuran (20 ml), and to this solution was added dropwise 1M tetrabutylammonium fluoride-tetrahydrofuran solution (6 ml) under ice-cooling. The mixture was stirred for 1 hour at the same temperature. Water was added to the reaction mixture and after distilling off tetrahydrofuran, the residue was extracted with dichloromethane. The extract was dried over anhydrous magnesium sulfate and distilled off then 8-hydroxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline (1.30 g) was obtained.

reactant | 8-t-Butyldimethylsilyloxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.81 g | [Si](C)(C)(C(C)(C)C)OCC=1C=CC=C2C(CCN(C12)CC)OCC=C | C21H35NO2Si
reactant | tetrabutylammonium fluoride tetrahydrofuran | 1M, 6 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.O1CCCC1
reactant | Water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-hydroxymethyl-4-allyloxy-1-ethyl-1,2,3,4-tetrahydroquinoline | 1.30 g | OCC=1C=CC=C2C(CCN(C12)CC)OCC=C | C15H21NO2
